US07943607B2
3-[(9-Chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
A mixture of 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide (539 mg, 1.77 mmol), N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-chloro-2,4-difluoro-N-methylbenzamide (539 mg, 1.77 mmol) and potassium carbonate (490 mg, 3.55 mmol) in acetonitrile (15 mL) was placed in a Smith Creator microwave reactor and heated to 140° C. for 6 hours. Distilled water was added to the reaction and the aqueous layer extracted with DCM (3×30 mL). The combined organic phase was washed with brine (30 mL), dried (MgSO4), filtered and evaporated to give a yellow oil. This was purified by column chromatography, eluting with 20-100% ethyl acetate in isohexane, to give the title compound (290 mg). 1H NMR δ (CDCl3): 2.09-2.15 (1H, m), 2.18-2.27 (1H, m), 3.23 (3H, s), 3.59 (2H, t), 3.76 (3H, s), 3.86-3.92 (1H, m), 3.94-4.00 (3H, m), 4.54 (2H, t), 4.95 (1H, d), 6.68 (1H, d), 6.78-6.81 (2H, m), 7.04-7.05 (1H, m), 7.16-7.17 (1H, m), 7.28 (1H, d), 7.70 (1H, d), 8.75 (1H, s); m/z 513 (M+H)+.

reactant | 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 1.77 mmol, 539 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C15H17N3O4
reactant | N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-chloro-2,4-difluoro-N-methylbenzamide | 1.77 mmol, 539 mg | [Si](C)(C)(C(C)(C)C)OCCN(C(C1=C(C(=C(C=C1)F)Cl)F)=O)C | C16H24ClF2NO2Si
reactant | potassium carbonate | 3.55 mmol, 490 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-[(9-Chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 290 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@@H]2COCC2 | C25H25ClN4O6
